US20010056089A1
Under nitrogen atmosphere, 6.64 ml (56.5 m mol) of thiobenzoic acid was added to a stirred solution of potassium tert-butoxide (6.07 g, 54.1 m mol) in DMF (80 ml) at 0° C. After stirring for 10 minutes, 5-methanesulfonyloxymethyl-4-methyl-1,2,3-thiadiazole (9.8 g, 47.0 m mol) in DMF (30 ml) was added to the mixture slowly at the same temperature. The whole mixture was stirred at 80° C. for 2 hours, poured into a mixture of diluted aqueous sodium hydrogencarbonate and ethyl acetate. The organic layer was separated and washed with brine, and dried over magnesium sulfate. After evaporation of the solvent, the residue was treated on silica gel (eluent: n-hexane/ethyl acetate=9/1 - 8/2) to afford 5-benzoylthiomethyl-4-methyl-1,2,3-thiadiazole (7.51 g).

reactant | thiobenzoic acid | 6.64 ml | C(C1=CC=CC=C1)(=S)O | C7H6OS
reactant | potassium tert-butoxide | 6.07 g | CC(C)([O-])C.[K+]
reactant | 5-methanesulfonyloxymethyl-4-methyl-1,2,3-thiadiazole | 9.8 g | CS(=O)(=O)OCC1=C(N=NS1)C | C5H8N2O3S2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | DMF | 80 ml | CN(C)C=O | C3H7NO
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-benzoylthiomethyl-4-methyl-1,2,3-thiadiazole | 7.51 g | C(C1=CC=CC=C1)(=O)SCC1=C(N=NS1)C | C11H10N2OS2
